US08084237B2
In this example, the ability of Ascomycete sp. KSM-JL2842 for producing a dodecahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan intermediate was examined. At the outset, a platinum loopful of Ascomycete sp. KSM-JL2842 was inoculated into 2.1% YM broth (Becton Dickinson), shake-culture was conducted at 25° C. for 2 days, and the resultants were designated as starter strains. Subsequently, the starter strains were inoculated into a medium containing 2.1% YM broth, 0.1% magnesium sulfate heptahydrate, 1% Tween 80, and 2% sclareol to a concentration of 2%, and shake culture was conducted at 25° C. The culture solution was subjected to extraction and GC analysis via the method of Example 1, and the amounts of the dodecahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan intermediates to be produced were determined. The results are shown in Table 3. The units for the numerical values shown in Table 3 are “g/l.”

reactant | magnesium sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sclareol | C[C@]12CCCC([C@@H]1CC[C@@]([C@@H]2CC[C@](C)(C=C)O)(C)O)(C)C | C20H36O2
catalyst | platinum | [Pt] | Pt
product | dodecahydro-3a,6,6,9a-tetramethylnaphtho[2,1-b]furan | CC12OCCC1C1(CCCC(C1CC2)(C)C)C | C16H28O
